US07342014B2
Ethyl 5-chloro-3-[(dimethylamino)carbonyl]indole-2-carboxylate
The compound (0.7 g) obtained in Referential Example 287 was dissolved in N,N-dimethylformamide (10 ml), and dimethylamine hydrochloride (0.26 g), 1-hydroxy-benzotriazole monohydrate (0.43 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.0 g) were added to stir the mixture at room temperature for 2 days. After the reaction mixture was diluted with ethyl acetate and washed with 1N hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and saturated aqueous solution of sodium chloride in that order, the resultant organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystallized from a mixed solvent of isopropyl ether and hexane to obtain the title compound (0.6 g).

reactant | dimethylamine hydrochloride | 0.26 g | Cl.CNC
reactant | 1-hydroxy-benzotriazole monohydrate | 0.43 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.0 g | Cl.CN(CCCN=C=NCC)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 5-chloro-3-[(dimethylamino)carbonyl]indole-2-carboxylate | 0.6 g | ClC=1C=C2C(=C(NC2=CC1)C(=O)OCC)C(=O)N(C)C | C14H15ClN2O3
